2192-12-26 07:32:00 Physician Resident Progress Note
Chief Complaint: hypotension, fevers
   24 Hour Events:
 MULTI LUMEN - START [**2192-12-25**] 10:00 AM
   Placed in ew
 EKG - At [**2192-12-25**] 11:48 AM
 URINE CULTURE - At [**2192-12-25**] 11:48 AM
   repeat labs showed resolved ARF
   levophed off
   excellent urine output
   Tearful this morning, worried that she is "too sick"
   Feels that her breathing is improving
   +Fevers
   Denies pain despite recent fall
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Grass Pollen-[**State 48**] Blue
   Standard
   Unknown;
   Ragweed
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-12-26**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 84 (64 - 90) bpm
   BP: 144/52(73){88/23(51) - 144/74(79)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,874 mL
                                                                    274 mL
   PO:
                                                                    180 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,194 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,255 mL
                                                                    275 mL
   Urine:
                                                                  1,255 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,619 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   PaO2 / FiO2: on 2L NC with shovel mask
   Physical Examination
   General Appearance: Overweight / Obese, + R IJ in place
   Eyes / Conjunctiva: pupils equal
   Head, Ears, Nose, Throat: MMM
   Cardiovascular: (S1: Normal), (S2: Normal), regular, no murmur
   Peripheral Vascular: DP present b/l
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: ), diminished at bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No LE edema b/l, though difficult to assess [**12-22**] obesity
   Skin  sweaty
   Neurologic: Attentive, Follows simple commands, Oriented (to): person,
   place
   Labs / Radiology
   172 K/uL
   11.2 g/dL
   91 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   19 mg/dL
   106 mEq/L
   139 mEq/L
   34.2 %
   6.8 K/uL
        [image002.jpg]
                             [**2192-12-25**]  11:43 AM
                             [**2192-12-25**]  08:03 PM
                             [**2192-12-26**]  05:19 AM
   WBC
   6.8
   Hct
   32.5
   34.2
   Plt
   172
   Cr
   1.0
   0.9
   Glucose
   98
   109
   91
   Other labs: LDH:205 IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Imaging: CT Head [**12-25**]:
   There is no intracranial hemorrhage, mass effect, or shift of
   normally midline structures.  [**Doctor Last Name 53**]-white matter differentiation is
   preserved.
   The ventricles are prominent, likely due to central atrophy.  There is
   moderate diffuse white matter hypodensity most likely representing
   chronic
   microvascular disease.  There is no evidence of acute major vascular
   territorial infarction.
   The visualized paranasal sinuses demonstrate moderate ethmoid sinus
   mucosal
   thickening and mild bilateral right greater than left maxillary sinus
   mucosal
   thickening.  There is no evidence of fracture.  The surrounding soft
   tissue
   structures are unremarkable.  Cataract surgical changes of the globes
   are
   seen bilaterally.
   CXR [**12-25**]:
   Left lower lobe opacity, probably representing pneumonia.
   However, given linear configuration, atelectasis is an alternative
   explanation.
   Microbiology: Legionella negative
   Sputum cancelled b/c dirty specimen
   UCx and BCx pending
DFA:  DIRECT INFLUENZA A ANTIGEN TEST (Final [**2192-12-26**]):
      Negative for Influenza A viral antigen.
   DIRECT INFLUENZA B ANTIGEN TEST (Final [**2192-12-26**]):
      POSITIVE FOR INFLUENZA B VIRAL ANTIGEN.
   Assessment and Plan
   70yo woman admitted after mechanical fall with c/o cough, found to be
   hypotensive with LLL consolidation.
   # Hypotension:
   -          resolved quickly with IV fluids; no longer requiring
   pressors
   -          suspect that she was intravascularly dry in setting of
   infection
   -          continue to hold BP meds as her pressures are still in low
   110s systolic
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -          note that DFA is positive for influenza; not a candidate for
   treatment given chronicity of symptoms (several weeks)
   -          respiratory droplet precautions
   -          suspect she may have presented with bacterial superinfection
   given that she acutely worsened over last 3-4 days, so will continue to
   treat with levofloxacin, but switch to PO
   -          note that patient is allergic to cephalosporins
   -          if fevers persist, would consider possible sinusitis given
   head CT findings
   # s/p fall:
   -          most likely from hypotension in setting of volume depletion
   as above
   -          defer syncope work-up for now
   -          official head CT without evidence of bleed
 ASTHMA:
   -          O2 sats stable; albuterol prn
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  resolved, patient
   at baseline
 HYPOTHYROIDISM:  levothyroxine
 GASTROESOPHAGEAL REFLUX DISEASE (GERD):  PPI
   ICU Care
   Nutrition:
   Comments: cardiac diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2192-12-25**] 10:00 AM
 will remove CVL prior to transfer to
   floor
   22 Gauge - [**2192-12-25**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: transfer to floor

2192-12-26 09:57:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2192-12-25**] 10:00 AM
   Placed in ew
 EKG - At [**2192-12-25**] 11:48 AM
 URINE CULTURE - At [**2192-12-25**] 11:48 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Grass Pollen-[**State 48**] Blue
   Standard
   Unknown;
   Ragweed
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Ear, Nose, Throat: Dry mouth
   Respiratory: Cough
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2192-12-26**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.1
C (100.6
   HR: 87 (64 - 90) bpm
   BP: 103/52(65){88/23(51) - 144/74(79)} mmHg
   RR: 20 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,874 mL
                                                                    898 mL
   PO:
                                                                    180 mL
                                                                    800 mL
   TF:
   IVF:
                                                                  2,194 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  1,255 mL
                                                                    365 mL
   Urine:
                                                                  1,255 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,619 mL
                                                                    533 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, hoarse voice
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : L base)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   172 K/uL
   91 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   19 mg/dL
   106 mEq/L
   139 mEq/L
   34.2 %
   6.8 K/uL
        [image002.jpg]
                             [**2192-12-25**]  11:43 AM
                             [**2192-12-25**]  08:03 PM
                             [**2192-12-26**]  05:19 AM
   WBC
   6.8
   Hct
   32.5
   34.2
   Plt
   172
   Cr
   1.0
   0.9
   Glucose
   98
   109
   91
   Other labs: LDH:205 IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP) unclear if  this is
   viral or bacterial pneumonia. Will send a DFA. Much better ths am and
   will continue abx for full 7d course
 ASTHMA - well controlled.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) resolved after volume
   resuscitation
 HYPOTHYROIDISM
 GASTROESOPHAGEAL REFLUX DISEASE (GERD) - may be cause of chronic
   cough. Remains on PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-12-25**] 10:00 AM
   22 Gauge - [**2192-12-25**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2192-12-27 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   + for influenza
 FEVER - 102.3
F - [**2192-12-26**] 04:00 PM
   Could not get PIV to DC central line
 CALLED OUT
   SUBJ:
   felt fever w/ chills, c/o chronic cough
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Grass Pollen-[**State 48**] Blue
   Standard
   Unknown;
   Ragweed
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-12-26**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-12-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2192-12-26**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-12-27**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.9
C (100.3
   HR: 79 (79 - 102) bpm
   BP: 106/61(75){97/50(42) - 128/104(108)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110 kg (admission): 110 kg
   Height: 70 Inch
    CVP: 3 (3 - 3)mmHg
   Total In:
                                                                  1,280 mL
                                                                     40 mL
   PO:
                                                                  1,040 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                    690 mL
                                                                    135 mL
   Urine:
                                                                    690 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    590 mL
                                                                    -95 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese, coughing
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   mid-inspiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   149 K/uL
   10.1 g/dL
   93 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.2 mEq/L
   17 mg/dL
   108 mEq/L
   140 mEq/L
   30.7 %
   3.9 K/uL
        [image002.jpg]
                             [**2192-12-25**]  11:43 AM
                             [**2192-12-25**]  08:03 PM
                             [**2192-12-26**]  05:19 AM
                             [**2192-12-27**]  03:45 AM
   WBC
   6.8
   3.9
   Hct
   32.5
   34.2
   30.7
   Plt
   172
   149
   Cr
   1.0
   0.9
   1.0
   Glucose
   98
   109
   91
   93
   Other labs: Differential-Neuts:82.4 %, Lymph:12.1 %, Mono:4.7 %,
   Eos:0.7 %, LDH:205 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Imaging: none new
   Microbiology: [**2192-12-26**]: DIRECT INFLUENZA B ANTIGEN TEST
    POSITIVE FOR INFLUENZA B VIRAL ANTIGEN.
   .
   [**2192-12-26**]) Legionella Urinary Antigen
    NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.
   .
   [**2192-12-25**] 6:07 am URINE     Site: CATHETER
                               **FINAL REPORT [**2192-12-26**]**
      URINE CULTURE (Final [**2192-12-26**]):    NO GROWTH.
   Assessment and Plan
   70yo woman admitted after fevers/cough/malaise/weakness at home c/b
   mechanical fall, found to be hypotensive in ED with LLL consolidation.
   Subsequently tested positive for influenza B
 FLU - DFA is positive for influenza; not a candidate for treatment
   given chronicity of symptoms (several weeks). She could have presented
   with bacterial superinfection given that she acutely worsened over last
   3-4 days.
   -          Respiratory status is tenuous. Will repeat CXR today
   -          Continue supplemental O2, symptom control with tylenol,
   tessalon perles, guaifenacin, nebs
   -          respiratory droplet precautions
   -          continue to treat with levofloxacin for 7 day course for
   possible superinfection
   # s/p fall:
   -          most likely from hypotension in setting of volume depletion
   as above, official head CT without evidence of bleed
   # Hypotension:
   -          restarted ACE as her pressures are acceptable, can d/c if
   becoming hypotensive
   -          poor po intake and insensible losses from fever: will give
   1L NS over course of day
 ASTHMA:
   -          O2 sats stable; albuterol prn
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  resolved, patient
   at baseline
 HYPOTHYROIDISM:  levothyroxine
 GASTROESOPHAGEAL REFLUX DISEASE (GERD):  PPI
   ICU Care
   Nutrition:
   Comments: regular cardiac diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2192-12-25**] 10:00 AM
   Comments:
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: remain in ICU for now

2192-12-27 11:02:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 102.3
F - [**2192-12-26**] 04:00 PM
 CALLED OUT
   Oxygen requirement increasing, remains febrile and tachycardic.
   Influenza B DFA positive.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Grass Pollen-[**State 48**] Blue
   Standard
   Unknown;
   Ragweed
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-12-26**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-12-26**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Respiratory: Cough, Dyspnea
   Gastrointestinal: Nausea
   Flowsheet Data as of  [**2192-12-27**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.7
C (101.6
   HR: 79 (79 - 100) bpm
   BP: 143/61(75){70/50(42) - 143/72(77)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 115 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  1,280 mL
                                                                    400 mL
   PO:
                                                                  1,040 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                    690 mL
                                                                    495 mL
   Urine:
                                                                    690 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    590 mL
                                                                    -95 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Diaphoretic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   mid-inspiratory at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   149 K/uL
   93 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.2 mEq/L
   17 mg/dL
   108 mEq/L
   140 mEq/L
   30.7 %
   3.9 K/uL
        [image002.jpg]
                             [**2192-12-25**]  11:43 AM
                             [**2192-12-25**]  08:03 PM
                             [**2192-12-26**]  05:19 AM
                             [**2192-12-27**]  03:45 AM
   WBC
   6.8
   3.9
   Hct
   32.5
   34.2
   30.7
   Plt
   172
   149
   Cr
   1.0
   0.9
   1.0
   Glucose
   98
   109
   91
   93
   Other labs: Differential-Neuts:82.4 %, Lymph:12.1 %, Mono:4.7 %,
   Eos:0.7 %, LDH:205 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP):  Cont levofloxacin.
 ASTHMA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): resolved.
 HYPOTHYROIDISM
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
   Influenza B:  Likely the cause of her persistent fevers and hypoxia.
   However, concern for development of bacterial superinfection given
   worsening of respiratory status.  Will repeat CXR and continue
   levofloxacin.  Is out of 72 hour window since development of symptoms
   so no indication to treat for influenza.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2192-12-25**] 10:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35
   Patient is critically ill

2192-12-28 10:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.6
F - [**2192-12-27**] 09:00 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Grass Pollen-[**State 48**] Blue
   Standard
   Unknown;
   Ragweed
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-12-26**] 10:00 AM
   Vancomycin - [**2192-12-28**] 08:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-12-28**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, Dyspnea
   Flowsheet Data as of  [**2192-12-28**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100.1
   HR: 97 (76 - 108) bpm
   BP: 123/52(69){97/41(57) - 135/83(127)} mmHg
   RR: 19 (15 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,290 mL
                                                                    400 mL
   PO:
                                                                  1,050 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    520 mL
   Urine:
                                                                  1,070 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,220 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : scattered insp, Wheezes : diffuse exp)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   133 K/uL
   98 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.3 mEq/L
   11 mg/dL
   106 mEq/L
   139 mEq/L
   30.8 %
   3.3 K/uL
        [image002.jpg]
                             [**2192-12-25**]  11:43 AM
                             [**2192-12-25**]  08:03 PM
                             [**2192-12-26**]  05:19 AM
                             [**2192-12-27**]  03:45 AM
                             [**2192-12-28**]  04:41 AM
   WBC
   6.8
   3.9
   3.3
   Hct
   32.5
   34.2
   30.7
   30.8
   Plt
   172
   149
   133
   Cr
   1.0
   0.9
   1.0
   0.9
   Glucose
   98
   109
   91
   93
   98
   Other labs: Differential-Neuts:82.4 %, Lymph:12.1 %, Mono:4.7 %,
   Eos:0.7 %, LDH:205 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]) remains oxygen dependent.
   Not clearly better but not worse. No real evidence of bacterial
   superinfection. Still wheezing diffusely. Continuing to get MDIs. We
   will d/c levoflox but continue Vanco. Trying to get sputum
 PNEUMONIA, VIRAL
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP) minimal evidence of
   bacterial infection but will complete course
 ASTHMA
   MARROW SUPPRESSION - WBC, plts are declining.  Not on an obvious marrow
   suppressant.  Will review meds. [**Month (only) 51**] be due to influenza
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-12-25**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2192-12-28 17:00:00 Physician Resident Progress Note
Chief Complaint: CXR raised question of free air, supine abdomen
   demonstrated no gross evidence of pneumoperitoneum.
   24 Hour Events:
 FEVER - 101.6
F - [**2192-12-27**] 09:00 AM
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Grass Pollen-[**State 48**] Blue
   Standard
   Unknown;
   Ragweed
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-12-26**] 10:00 AM
   Vancomycin - [**2192-12-28**] 08:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-12-28**] 08:17 AM
   Heparin Sodium (Prophylaxis) - [**2192-12-28**] 02:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2192-12-28**] 04:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 100 (76 - 106) bpm
   BP: 120/51(69){97/41(57) - 135/83(87)} mmHg
   RR: 16 (15 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,290 mL
                                                                    910 mL
   PO:
                                                                  1,050 mL
                                                                    710 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                  1,000 mL
   Urine:
                                                                  1,070 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,220 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: , Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   133 K/uL
   10.4 g/dL
   98 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.3 mEq/L
   11 mg/dL
   106 mEq/L
   139 mEq/L
   30.8 %
   3.3 K/uL
        [image002.jpg]
                             [**2192-12-25**]  11:43 AM
                             [**2192-12-25**]  08:03 PM
                             [**2192-12-26**]  05:19 AM
                             [**2192-12-27**]  03:45 AM
                             [**2192-12-28**]  04:41 AM
   WBC
   6.8
   3.9
   3.3
   Hct
   32.5
   34.2
   30.7
   30.8
   Plt
   172
   149
   133
   Cr
   1.0
   0.9
   1.0
   0.9
   Glucose
   98
   109
   91
   93
   98
   Other labs: Differential-Neuts:82.4 %, Lymph:12.1 %, Mono:4.7 %,
   Eos:0.7 %, LDH:205 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   70F h/o fevers/cough/malaise at home, fell, hypotensive with LLL
   consolidation in ED, positive for influenza B
   # RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]) [**12-22**] PNEUMONIA, VIRAL:
   Influenza, continue supplemental O2, acetaminophen, Tessalon perles,
   guaifenacin, nebs, chest PT, daily CXR, droplet precautions.  Start
   vancomycin x10 days given possible bacterial superinfection (strep,
   staph).
   # Thrombocytopenia, leukopenia: Concern for marrow process.  D/c
   levofloxacin, d/c sertraline.
   # ASTHMA: Continue nebs and supportive care.
   # BP control: Captopril 6.25 mg PO TID restarted.  Assess fluid status,
   supportive IVF.
   # Hypothyroidism: Continue home regimen levothyroxine
   # GERD: Pantoprazole.
   ICU Care
   Nutrition: Regular; Cardiac/Heart healthy
   Glycemic Control:  Good
   Lines:
   Multi Lumen - [**2192-12-25**] 10:00 AM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: Pantoprazole 40 mg PO Q24H
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2192-12-29 07:46:00 Physician Resident Progress Note
Chief Complaint: hypotension, cough
   24 Hour Events:
 FEVER - 101.7
F - [**2192-12-28**] 12:00 PM
   Subjective:
   +Cough, but denies dyspnea
   Denies feeling feverish.  No chest pain, no abdominal pain, no
   diarrhea.  Poor appetite.
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Grass Pollen-[**State 48**] Blue
   Standard
   Unknown;
   Ragweed
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-12-26**] 10:00 AM
   Vancomycin - [**2192-12-28**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-12-28**] 08:17 AM
   Heparin Sodium (Prophylaxis) - [**2192-12-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-12-29**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.8
C (98.3
   HR: 75 (72 - 106) bpm
   BP: 123/61(75){93/51(65) - 160/79(84)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115.6 kg (admission): 110 kg
   Height: 70 Inch
                  Total In:
                                                                  1,830 mL
                                                                    200 mL
   PO:
                                                                  1,230 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    600 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    565 mL
   Urine:
                                                                  1,420 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    410 mL
                                                                   -365 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress, Coughing
   Right IJ in place, no erythema at site
   Head, Ears, Nose, Throat: Mucous membranes moist
   Cardiovascular: (S1: Normal), (S2: Normal), No Murmur
   Peripheral Vascular: DP +2 b/l
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No LE edema
   Neurologic: Attentive, Oriented (to): person, place
   Labs / Radiology
   158 K/uL
   10.2 g/dL
   106 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.1 mEq/L
   12 mg/dL
   103 mEq/L
   138 mEq/L
   30.3 %
   3.7 K/uL
        [image002.jpg]
                             [**2192-12-25**]  11:43 AM
                             [**2192-12-25**]  08:03 PM
                             [**2192-12-26**]  05:19 AM
                             [**2192-12-27**]  03:45 AM
                             [**2192-12-28**]  04:41 AM
                             [**2192-12-29**]  05:02 AM
   WBC
   6.8
   3.9
   3.3
   3.7
   Hct
   32.5
   34.2
   30.7
   30.8
   30.3
   Plt
   172
   149
   133
   158
   Cr
   1.0
   0.9
   1.0
   0.9
   0.9
   Glucose
   98
   109
   91
   93
   98
   106
   Other labs: PT / PTT / INR:12.1/26.5/1.0, Differential-Neuts:82.4 %,
   Lymph:12.1 %, Mono:4.7 %, Eos:0.7 %, LDH:205 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: KUB [**12-27**]: No air
   Microbiology: UCx and Sputum Cx negative
   BCx pending
   Influenza positive
   Assessment and Plan
   70yo woman admitted with respiratory distress and hypotension in the
   setting of influenza and volume depletion.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]); PNEUMONIA
   -          Multifactorial in setting of influenza and possible
   bacterial superinfection as well as baseline asthma
   -          s/p treatment with levofloxacin, stopped for concern of
   marrow suppression
   -          continue vancomycin and start aztreonam to cover possible
   gram negatives
   -          resend sputum culture when sputum available; resend blood
   cultures
   -          change albuterol and atrovent to standing nebs
   -          continue supportive care with chest PT, tessalon perles,
   guaifenesin, O2
   -          consider prednisone if she continues to worsen
   # Thrombocytopenia, Leukopenia:
   -          improving today after stopping levofloxacin
   -          will restart sertraline because of concern for side effects
   of abrupt cessation of SSRi
   -          continue to monitor CBC
 Hypertension:
   -          continue low dose captopril
   # Hypothyroidism:  continue levothyroxine
   # GERD:  PPI
   ICU Care
   Nutrition:
   Comments: Cardiac diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2192-12-25**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Code status: Full code
   Disposition:ICU

2192-12-30 08:11:00 Physician Resident Progress Note
Chief Complaint: 78F admitted with fever, chills, cough
   24 Hour Events:
   Added aztreonam to vanc for coverage of GNR; resent sputum Cx, still no
   organisms
   Changed nebs to standing
   Subjective: Denies SOB, breathing easier today still cough
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown; Grass Pollen-[**State 48**] Blue
   Standard Unknown; Ragweed Unknown;
   Antibiotics:
   Aztreonam 1gIV q8
   Vancomycin 1g IV q12
   Other medications:
   Albuterol
   Heparin SQ
   ASA 325 daily, Captopril 6.25 TID
   Levoxyl, Protonix, Simvastatin, Sertraline
   Flowsheet Data as of  [**2192-12-30**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 72 (72 - 100) bpm
   BP: 109/50(64){93/47(38) - 175/131(141)} mmHg
   RR: 14 (8 - 23) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,440 mL
                                                                    520 mL
   PO:
                                                                    940 mL
                                                                    320 mL
   TF:
   IVF:
                                                                  1,500 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                    700 mL
   Urine:
                                                                  1,975 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    465 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ////
   Physical Examination
   General obese woman lying in bed no acute distress
   CV Regular rate s1 s2 no m/r/g
   Pulm Lungs with few crackles L side +wheezing
   Abd Soft nontender +bowel sounds
   Extrem Warm no edema
   Derm No rash
   Neuro Alert awake and interactive
   Foley in place
   Labs / Radiology
   158 K/uL
   10.2 g/dL
   106 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.1 mEq/L
   12 mg/dL
   103 mEq/L
   138 mEq/L
   30.3 %
   3.7 K/uL
        [image002.jpg]
                             [**2192-12-25**]  11:43 AM
                             [**2192-12-25**]  08:03 PM
                             [**2192-12-26**]  05:19 AM
                             [**2192-12-27**]  03:45 AM
                             [**2192-12-28**]  04:41 AM
                             [**2192-12-29**]  05:02 AM
   WBC
   6.8
   3.9
   3.3
   3.7
   Hct
   32.5
   34.2
   30.7
   30.8
   30.3
   Plt
   172
   149
   133
   158
   Cr
   1.0
   0.9
   1.0
   0.9
   0.9
   Glucose
   98
   109
   91
   93
   98
   106
   Other labs: PT / PTT / INR:12.1/26.5/1.0, Differential-Neuts:82.4 %,
   Lymph:12.1 %, Mono:4.7 %, Eos:0.7 %, LDH:205 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Fever curve improved, subjectively breathing easier but still with O2
   requirement.
   Given wheezing, will start short course of prednisone
 PNEUMONIA, VIRAL. Influenza B infection
   No oseltamivir given duration of sx at presentation
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   No bacterial source yet identified, ?L sided infiltrate concerning for
   bacterial superinfection
   Now on aztreonam/vancomycin ?whether levofloxacin was related to
   decreased WBC. Awaiting AM labs to f/u WBC count.
   Will repeat sputum culture (can
t induce [**12-22**] risk of bronchospasm)
   Clinically improved while on vancomycin so will complete 7day course,
   consider D/C aztreonam tomorrow
 ASTHMA
   Continue albuterol/altrovent, prednisone as above.
 Leukopenia
   Likely related to viral infection, but consider also meds
 vancomycin
   for example can be associated with neutropenia
 Hypertension
   Continue captopril
 Hypothyroidism
   Continue levothyroxine
 Depression
   Continue sertraline
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-12-25**] 10:00 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:  n/a
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor

2192-12-30 11:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   HPI:
   24 Hour Events:
   Aztreonam added for gram-negative coverage; standing nebs added
   yesterday and feels better from a respiratory standpoint
   History obtained from Patient
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Unknown;
   Grass Pollen-[**State 48**] Blue
   Standard
   Unknown;
   Ragweed
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2192-12-30**] 06:00 AM
   Vancomycin - [**2192-12-30**] 11:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-12-30**] 06:00 AM
   Other medications:
   Captopril, Synthroid, SQ Heparin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-12-30**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 72 (72 - 100) bpm
   BP: 127/68(80){97/47(38) - 175/131(141)} mmHg
   RR: 15 (8 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,440 mL
                                                                    720 mL
   PO:
                                                                    940 mL
                                                                    320 mL
   TF:
   IVF:
                                                                  1,500 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                  1,150 mL
   Urine:
                                                                  1,975 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    465 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Wheezes : Marked expiratory wheezing throughout with some inspiratory
   wheezing, No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   158 K/uL
   106 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.1 mEq/L
   12 mg/dL
   103 mEq/L
   138 mEq/L
   30.3 %
   3.7 K/uL
        [image002.jpg]
                             [**2192-12-25**]  11:43 AM
                             [**2192-12-25**]  08:03 PM
                             [**2192-12-26**]  05:19 AM
                             [**2192-12-27**]  03:45 AM
                             [**2192-12-28**]  04:41 AM
                             [**2192-12-29**]  05:02 AM
   WBC
   6.8
   3.9
   3.3
   3.7
   Hct
   32.5
   34.2
   30.7
   30.8
   30.3
   Plt
   172
   149
   133
   158
   Cr
   1.0
   0.9
   1.0
   0.9
   0.9
   Glucose
   98
   109
   91
   93
   98
   106
   Other labs: PT / PTT / INR:12.1/26.5/1.0, Differential-Neuts:82.4 %,
   Lymph:12.1 %, Mono:4.7 %, Eos:0.7 %, LDH:205 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 RESPIRATORY DISTRESS: Influenza +/- bacterial pna w/ asthma ->
   continue abx (f/u WBC given ? of leukosuppression), standing nebs and
   today will start po Prednisone 40mg x 5 days as a start to help with
   her exertional dyspnea
 PNEUMONIA, VIRAL + BACTERIAL, COMMUNITY ACQUIRED (CAP): Continue abx
   for now, d/c p 48 hours pending culture data (re-send culture)
 ASTHMA: standing nebs and start Prednisone 40mg x 5 days as an
   initial plan
 LEUKOPENIA: await WBC today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-12-25**] 10:00 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: h2 blocker
   VAP: nto vent
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : called out
   Total time spent: 30